US05155048
Referring now to the drawings, and more particularly to FIG. 1, there is shown the synthesis route for preparing the dihydrochloride salt of 1,1'-para-phenylene dipiperidine. The synthesis involves the reaction between cyanide ion, piperidine, and tetrahydroquinone. The resulting yield of 1,4-dicyano-1,4-dipiperidylcyclohexane is approximately 80%. Tetrahydroquinone, cyanide, and piperidine are commercially available from Aldrich Chemical Co. Piperidine can only be obtained in compliance with federal drug enforcement law. The 1,4-dicyano-1,4-dipiperidylcyclohexane is then reacted with a Grignard reagent, phenyl magnesium bromide, which is also available from Aldrich Chemical Co. In this reaction, the Grignard reaction may cause decyanation of the dicyano compound to give a dienanmine structure which undergoes air oxidation in solution to produce 1,1'-para-phenylene dipiperidine free base. The yield is approximately 28% for the Grignard reaction. The structure of 1,1'-para-phenylene dipiperidine was confirmed by classical CHN analytical methods and modern spectral techniques such as IR and NMR. The compounds melting point and spectral properties were consistent with those reported in the literature.

reactant | 1,4-dicyano-1,4-dipiperidylcyclohexane | C(#N)C1(CCC(CC1)(N1CCCCC1)C#N)N1CCCCC1 | C18H28N4
reactant | phenyl magnesium bromide | C1(=CC=CC=C1)[Mg]Br
product | 1,1'-para-phenylene dipiperidine | yield is approximately 28% | C1(=CC=C(C=C1)N1CCCCC1)N1CCCCC1 | C16H24N2
